US09233946B2
3-Chloro-2-methyl-N-[3-(1H-tetrazol-5-yl)phenyl]benzenesulfonamide
The product was prepared according to General Procedure 6, described in Example 65, with 3-chloro-2-methylbenzenesulfonyl chloride (12.4 mg, 0.055 mmol) and 5-(3-aminophenyl)tetrazole (8.0 mg, 0.050 mmol). The title compound was obtained in 58% yield (10.1 mg). MS (ESI+) calcd mass for C14H12ClN5O2S 349.040023, found 349.040413.

reactant | 3-chloro-2-methylbenzenesulfonyl chloride | 0.055 mmol, 12.4 mg | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6Cl2O2S
reactant | 5-(3-aminophenyl)tetrazole | 0.050 mmol, 8.0 mg | NC=1C=C(C=CC1)C1=NN=NN1 | C7H7N5
product | 3-Chloro-2-methyl-N-[3-(1H-tetrazol-5-yl)phenyl]benzenesulfonamide | 58% yield | ClC=1C(=C(C=CC1)S(=O)(=O)NC1=CC(=CC=C1)C1=NN=NN1)C | C14H12ClN5O2S
